US08304419B2
Step B. 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid
A solution of ethyl 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylate (1.00 g, 5.88 mmol) in 3N NaOH (5.88 mL) was heated to 65° C. for 2 h then cooled to RT. The mixture was filtered then added dropwise to a stirred solution of concentrated H2SO4 (1.10 mL) in water (7.35 mL). The mixture was stirred for 2 h then filtered. The solid was washed with water (2×10 mL) then dried under vacuum to give 0.65 g (78%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.21 (d, 1H), 10.52 (br. s., 1H), 9.77-10.21 (m, 1H), 1.95-2.35 (m, 3H).

reactant | ethyl 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylate | 5.88 mmol, 1.00 g | CC1=C(NC(N1)=O)C(=O)OCC | C7H10N2O3
solvent | NaOH | 3N, 5.88 mL | [OH-].[Na+]
product | 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid | 0.65 g, 78% | CC1=C(NC(N1)=O)C(=O)O | C5H6N2O3
